US07105682B2
Step A: Preparation of 1-piperidylprop-2-en-1-one
To a 0° C. solution of acryloyl chloride (4.576 g, 50.558 mmol) in CH2Cl2 (50 ml) was added dropwise and very carefully piperidine (4.305 g, 50.558 mmol). The reaction flask was vented during the exothermic addition. After the addition was completed, the white slurry was stirred at 0° C. for 40 min and at RT for 1 h. The reaction was diluted with 70 ml CH2Cl2 and washed first with about 60 ml 2N HCl and then with about 60 ml of a mix of 2N NaOH and brine. The organic layer was dried over Na2SO4. The solution was evaporated by heating in a water bath at 60° C. without vacuum. Once most solvent had been evaporated off, dried the clear oil under high vacuum at RT for 30 min.

reactant | acryloyl chloride | 50.558 mmol, 4.576 g | C(C=C)(=O)Cl | C3H3ClO
reactant | piperidine | 50.558 mmol, 4.305 g | N1CCCCC1 | C5H11N
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 70 ml | C(Cl)Cl | CH2Cl2
product | 1-piperidylprop-2-en-1-one | N1(CCCCC1)C(C=C)=O | C8H13NO
